US07863271B2
A solution of methyl 2-chlorobenzoxazole-4-carboxylate (1.0 g, 4.7 mmol) and thiomorpholine (1.4 mL, 14 mmol) in THF (20 mL) was stirred at ambient temperature for 1 h. Then, the reaction mixture was poured into EtOAc (100 mL) and washed with 1N HCl (20 mL), H2O (20 mL), brine (20 mL), dried (Na2SO4) and concentrated under reduced pressure. Purification by chromatography (silica gel, 5 to 50% EtOAc in hexanes) gave methyl 2-thiomorpholinobenzoxazole-4-carboxylate (1.1 g, 84%) as a yellow solid. 1H NMR and MS consistent.

reactant | methyl 2-chlorobenzoxazole-4-carboxylate | 4.7 mmol, 1.0 g | ClC=1OC=2C(N1)=C(C=CC2)C(=O)OC | C9H6ClNO3
reactant | thiomorpholine | 14 mmol, 1.4 mL | N1CCSCC1 | C4H9NS
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | methyl 2-thiomorpholinobenzoxazole-4-carboxylate | 1.1 g, 84% | S1CCN(CC1)C=1OC=2C(N1)=C(C=CC2)C(=O)OC | C13H14N2O3S
